US05512562
E. 7-Hydroxy-3-methyl-6-nitro-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine
0.40 g (0.00128 mol) 7-methoxy-3-methyl-6-nitro-l-phenyl-2,3,4,5-tetrahydro1H-3-benzazepine was dissolved in 6 ml dry dichloromethane. The solution was cooled to -20° C. and 1.5 ml boron tribromide was added dropwise. The reaction mixture was stirred at -20° C. for 15 min and at room temperature for 2.5 h. Then, the mixture was concentrated in vacuo and the residue was hydrolized by careful addition of methanol. 10 ml water was added and the solution was heated to reflux for 0.5h. The cooled solution was adjusted to pH 8.5 by addition of NaHCO3 -solution and extracted with dichloromethane. Evaporation of the solvent yielded the compound as a yellow powder.

reactant | 7-methoxy-3-methyl-6-nitro-l-phenyl-2,3,4,5-tetrahydro1H-3-benzazepine | 0.00128 mol, 0.40 g | COC1=C(C2=C(C(CN(CC2)C)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C18H20N2O3
reactant | boron tribromide | 1.5 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 7-Hydroxy-3-methyl-6-nitro-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | OC1=C(C2=C(C(CN(CC2)C)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C17H18N2O3
